US05801170
2-Methoxy-N-methyl-5-nitroaniline
2-Methoxy-5-nitroformanilide (D84) (0.80 g, 4.1 mmole) was stirred in dry THF (30 ml) under Ar as borane dimethyl sulphide complex (2M in toluene, 5.3 ml, 10.6 mmole) was added dropwise. The mixture was stirred at reflux for 3 h, cooled and treated with methanol (5 ml). The resultant mixture was stirred for 1 h, acidified (1M HCl in ether, 5 ml), and then stirred at reflux for 1 h. It was then diluted with methanol, evaporated in vacuo, and partitioned between dil. potassium hydroxide solution and ethyl acetate. The organic portion was separated off, dried (Na2SO4) and evaporated in vacuo to give the title compound as a red-orange solid (0.71 g, 95%). 1H NMR (250 MHz, CDCl3) δ(ppm): 7.63 (dd, 1H), 7.37 (d, 1H), 6.75 (d, 1H), 4.48 (bs, 1H), 3.95 (s, 3H), 2.94 (d, 3H).

reactant | 2-Methoxy-5-nitroformanilide | 4.1 mmole, 0.80 g | COC1=C(C=C(C=C1)[N+](=O)[O-])NC=O | C8H8N2O4
reactant | borane dimethyl sulphide | 10.6 mmole, 2M, 5.3 ml | CSC.B
reactant | HCl | 1M | Cl | ClH
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
solvent | methanol | CO | CH4O
solvent | methanol | 5 ml | CO | CH4O
product | 2-Methoxy-N-methyl-5-nitroaniline | 0.71 g, 95% | COC1=C(NC)C=C(C=C1)[N+](=O)[O-] | C8H10N2O3
